2120-02-04 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bradycardia without change in BP or respirations
   - No episodes of hemoptysis o/n
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-2-3**] 09:00 AM
   Vancomycin - [**2120-2-3**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-3**] 10:00 AM
   Midazolam (Versed) - [**2120-2-3**] 05:20 PM
   Fentanyl - [**2120-2-3**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-4**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 89 (46 - 91) bpm
   BP: 113/49(63) {90/40(54) - 122/64(76)} mmHg
   RR: 20 (0 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,995 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                    945 mL
                                                                    172 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,910 mL
                                                                    720 mL
   Urine:
                                                                  1,910 mL
                                                                    320 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,085 mL
                                                                   -548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   51 K/uL
   10.4 g/dL
   141 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   38 mg/dL
   109 mEq/L
   140 mEq/L
   29.6 %
   2.9 K/uL
        [image002.jpg]
                             [**2120-2-3**]  07:34 AM
                             [**2120-2-3**]  01:40 PM
                             [**2120-2-3**]  05:53 PM
                             [**2120-2-3**]  10:25 PM
                             [**2120-2-4**]  03:49 AM
   WBC
   5.7
   3.7
   2.9
   Hct
   30.6
   28.6
   30.1
   29.6
   Plt
   65
   52
   51
   Cr
   1.4
   1.6
   1.6
   1.6
   TropT
   0.36
   0.24
   0.19
   Glucose
   183
   168
   188
   141
   Other labs: PT / PTT / INR:16.1/27.6/1.4, CK / CKMB /
   Troponin-T:48//0.19, ALT / AST:34/25, Alk Phos / T Bili:94/1.4,
   Differential-Neuts:79.8 %, Lymph:11.1 %, Mono:8.2 %, Eos:0.6 %,
   Albumin:2.8 g/dL, LDH:482 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEMOPTYSIS
   70 year old male with known CLL presents with hemoptysis in setting of
   known LLL mass; now s/p embolization of bronchial artery with recurrent
   hemoptysis.
   # Hemoptysis: most likely secondary to bleeding bronchial vessel.  In
   light of recent history of hemorrhaging LLL bronchial artery, this
   seems to be most likely source.  Because this was not able to be
   intervened on endobronciolly at the time of last IP procedure, IP and
   IR feel that it's again likely to require embolization procedure.
   - IR fellow and I attempting to reach patient's wife for consent, will
   touch base  later this morning ([**Doctor First Name **] [**Doctor Last Name 898**] [**Numeric Identifier 13677**]) - update, wife aware,
   will discuss with IR later this  morning
   - check hct q4h
   - transfuse to hct >30, platelets >50k
   - continue L tilted positioning, attempt to contiunme R mainstem
   intubation
   .
   # Hypotension:  likely a combination of  positive pressure ventilation
   and medication effect, less likely significant hemodynamic loss into
   thorax or adrenal infufficiency given relatively low (physiologic) home
   dose of prednisone
   - check random cortisol
   - stress-dose steroids if not off pressors later today
   .
   # Recent HAP-
   - vanc/cefepime until [**2-5**]
   .
   # OG bleeding:  secondary to coagulopathy
   - continue PPI
   - Hct monitoring as above
   - DIC labs if worsening
   .
   # [**Last Name (un) **]: Cr elevated to 1.4 (baseline 1.0-1.2); likely secondary to
   hypotension
   .
   # Anemia: Patient has known AIHA related to CLL and HCT 25 from
   baseline 28-30 with increased hyperbilirubinemia possibly related to
   hemolysis with elevated TB, low haptoglobin. Transfused 2 unit PRBCs in
   ED.
   - continue prednisone
   - follow hct
   - transfuse to Hct 30 as above
   .
   # CLL: Per oncology plan is to defer further treatment
   -Discuss with primary onc tem
   .
   #CAD: ECG not significantly changed from prior
   - hold metoprolol while hypotensive
   .
   .
   # DM2:
   - FS QID and HISS
   .
   # FEN: NPO
   # Prophylaxis: pneumoboots
   # Access: fem line and PICC
   # Communication: [**Name (NI) **] wife
   # Code: Full
   # Consent: signed, in chart
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-2-3**] 06:29 AM
   PICC Line - [**2120-2-3**] 06:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2120-02-04 09:05:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70M with CLL, coagulopathy, lung masses of unclear etiology, recent
   history of massive hemoptysis s/p LLL brachial artery embolization,
   represented with recurrent hemoptysis of unclear amount, no stable for
   >36 hrs without evidence of rebleeding:
   24 Hour Events:
   - pressors off
   - no evidence of bleeding
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-2-3**] 09:00 AM
   Vancomycin - [**2120-2-3**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-3**] 10:00 AM
   Midazolam (Versed) - [**2120-2-3**] 05:20 PM
   Fentanyl - [**2120-2-3**] 05:20 PM
   Propofol - [**2120-2-4**] 08:01 AM
   Other medications:
   vanco, cef, famotidine, riss, hydrocort, prop gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Psychiatric / Sleep: Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-2-4**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 87 (46 - 91) bpm
   BP: 101/45(58) {90/40(54) - 122/64(76)} mmHg
   RR: 20 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,995 mL
                                                                    195 mL
   PO:
             TF:
   IVF:
                                                                    945 mL
                                                                    195 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,910 mL
                                                                    820 mL
   Urine:
                                                                  1,910 mL
                                                                    420 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,085 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 5 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   51 K/uL
   141 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   38 mg/dL
   109 mEq/L
   140 mEq/L
   29.6 %
   2.9 K/uL
        [image002.jpg]
                             [**2120-2-3**]  07:34 AM
                             [**2120-2-3**]  01:40 PM
                             [**2120-2-3**]  05:53 PM
                             [**2120-2-3**]  10:25 PM
                             [**2120-2-4**]  03:49 AM
   WBC
   5.7
   3.7
   2.9
   Hct
   30.6
   28.6
   30.1
   29.6
   Plt
   65
   52
   51
   Cr
   1.4
   1.6
   1.6
   1.6
   TropT
   0.36
   0.24
   0.19
   Glucose
   183
   168
   188
   141
   Other labs: PT / PTT / INR:16.1/27.6/1.4, CK / CKMB /
   Troponin-T:48//0.19, ALT / AST:34/25, Alk Phos / T Bili:94/1.4,
   Differential-Neuts:79.8 %, Lymph:11.1 %, Mono:8.2 %, Eos:0.6 %,
   Albumin:2.8 g/dL, LDH:482 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Imaging: no new cxr
   Microbiology: no new cx
   Assessment and Plan
   70M with CLL, coagulopathy, lung masses of unclear etiology, recent
   history of massive hemoptysis s/p LLL brachial artery embolization,
   represented with recurrent hemoptysis of unclear amount, now stable for
   >36 hrs without evidence of rebleeding. Unfortunately, it is not clear
   how much hemoptysis the patient had at rehab before he was intubated.
   After extensive discussion with IP and IR yesterday, we made a decision
   not to do additional procedure given that risks outweigh the benefits
   of any procedures.
   Case discussed with IP again this am. Will check an xray this morning
   in order to make a decision whether there is a need for a
clean-up
   bronchoscopy before extubation. Will extubate after that.
   Troponin trended down after another NSTEMI
   ICU Care
   Nutrition: start after extubation.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2120-2-3**] 06:29 AM
 to be removed after extubation.
   PICC Line - [**2120-2-3**] 06:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   Patient extubated and doing well.  IP would like to have him observed
   for 24 hours unit before sending to floor so will keep him for know.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2120-2-4**] 14:15 ------

2120-02-05 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2120-2-4**] 11:34 AM
 INVASIVE VENTILATION - STOP [**2120-2-4**] 12:31 PM
   - extubated
   - bronch by IP: no active bleeding, stable clots
   - observed overnight in MICU, to BMT in a.m.
   - pm Hct stable, no further bleeding or hemoptysis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-2-4**] 09:00 AM
   Vancomycin - [**2120-2-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-4**] 10:00 AM
   Propofol - [**2120-2-4**] 11:25 AM
   Lorazepam (Ativan) - [**2120-2-5**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-5**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 98 (87 - 136) bpm
   BP: 139/70(87) {101/42(57) - 159/76(96)} mmHg
   RR: 36 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    878 mL
                                                                     62 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    698 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    540 mL
   Urine:
                                                                  1,225 mL
                                                                    540 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -747 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 9.9 L/min
   Physical Examination
   Gen: elderly man, lying in bed sleeping, NAD
   CV: RR, normal S1/S2, no m/r/g
   Lungs: CTAB
   Abd: soft, NT, ND, BS present
   Ext: no edema
   Labs / Radiology
   49 K/uL
   9.9 g/dL
   143 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   37 mg/dL
   109 mEq/L
   141 mEq/L
   29.3 %
   1.6 K/uL
        [image002.jpg]
                             [**2120-2-3**]  07:34 AM
                             [**2120-2-3**]  01:40 PM
                             [**2120-2-3**]  05:53 PM
                             [**2120-2-3**]  10:25 PM
                             [**2120-2-4**]  03:49 AM
                             [**2120-2-4**]  05:45 PM
                             [**2120-2-5**]  04:22 AM
   WBC
   5.7
   3.7
   2.9
   1.2
   1.6
   Hct
   30.6
   28.6
   30.1
   29.6
   28.0
   29.3
   Plt
   65
   52
   51
   46
   49
   Cr
   1.4
   1.6
   1.6
   1.6
   1.7
   1.6
   TropT
   0.36
   0.24
   0.19
   0.16
   0.10
   Glucose
   183
   168
   188
   141
   221
   143
   Other labs: PT / PTT / INR:15.4/26.9/1.3, CK / CKMB /
   Troponin-T:48/6/0.10, ALT / AST:34/25, Alk Phos / T Bili:94/1.4,
   Differential-Neuts:79.8 %, Lymph:11.1 %, Mono:8.2 %, Eos:0.6 %,
   Albumin:2.8 g/dL, LDH:482 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 HEMOPTYSIS
   70 year old male with known CLL presents with hemoptysis in setting of
   known LLL mass; now s/p embolization of bronchial artery with recurrent
   hemoptysis.
   # Hemoptysis: most likely secondary to bleeding bronchial vessel.  Has
   been stable since MICU admission without evidence of rebleeding. Bronch
   yesterday showed no active bleeding and only stable clots. Extubated
   yesterday. Hct stable.
   - daily Hcts
   - f/u IP recs
   # Hypertension and tachycardia last night: betablocker was discontinued
   on admission due to hemoptysis and transient hypotension.
   - restart metoprolol 25 mg [**Hospital1 **]
   # Recent HAP:
   - last doses of vancomycin, cefepime today
   # [**Last Name (un) **]: Cr elevated to 1.7 yesterday (baseline 1.0-1.2), today down to
   1.6; likely secondary to recent hypotension. Now making urine.
   - trend Cr
   # CLL:
   - transfer to BMT today for further oncologic care with Dr. [**Last Name (STitle) 363**]
   #CAD: ECG not significantly changed from prior
   - continue metoprolol
   # DM2:
   - FS QID and HISS
   # FEN: PO diet
   # Prophylaxis: pneumoboots
   # Access: d/c fem line today
   # Communication: [**Name (NI) **] wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-2-3**] 06:29 AM
   PICC Line - [**2120-2-3**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: to BMT floor today

2120-02-05 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo male w/ CLL and hx of RCC remotely currently w/ mediastinal
   masses and L bronchial art bleed and s/p emobolization of LLL bronchial
   artery. Readmitted w/ hemoptysis, concerning for lge volume. s/p bronch
   yest per IP w/ stable LLL clot noted. Extubated uneventfully yest.
   24 Hour Events:
   no events. Noted to have delirium overnight and this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-2-4**] 09:00 AM
   Vancomycin - [**2120-2-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-4**] 10:00 AM
   Propofol - [**2120-2-4**] 11:25 AM
   Lorazepam (Ativan) - [**2120-2-5**] 01:00 AM
   Other medications:
   hydrocortisone 20 iv qd, Colace, Lopressor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-5**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 112 (87 - 136) bpm
   BP: 154/79(97) {108/51(65) - 159/79(97)} mmHg
   RR: 18 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    878 mL
                                                                    348 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    698 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    775 mL
   Urine:
                                                                  1,225 mL
                                                                    775 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -747 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): only to name, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   49 K/uL
   143 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   37 mg/dL
   109 mEq/L
   141 mEq/L
   29.3 %
   1.6 K/uL
        [image002.jpg]
                             [**2120-2-3**]  07:34 AM
                             [**2120-2-3**]  01:40 PM
                             [**2120-2-3**]  05:53 PM
                             [**2120-2-3**]  10:25 PM
                             [**2120-2-4**]  03:49 AM
                             [**2120-2-4**]  05:45 PM
                             [**2120-2-5**]  04:22 AM
   WBC
   5.7
   3.7
   2.9
   1.2
   1.6
   Hct
   30.6
   28.6
   30.1
   29.6
   28.0
   29.3
   Plt
   65
   52
   51
   46
   49
   Cr
   1.4
   1.6
   1.6
   1.6
   1.7
   1.6
   TropT
   0.36
   0.24
   0.19
   0.16
   0.10
   Glucose
   183
   168
   188
   141
   221
   143
   Other labs: PT / PTT / INR:15.4/26.9/1.3, CK / CKMB /
   Troponin-T:48/6/0.10, ALT / AST:34/25, Alk Phos / T Bili:94/1.4,
   Differential-Neuts:79.8 %, Lymph:11.1 %, Mono:8.2 %, Eos:0.6 %,
   Albumin:2.8 g/dL, LDH:482 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   70 yo male w/ CLL and hx of RCC remotely currently w/ mediastinal
   masses and L bronchial art bleed and s/p emobolization of LLL bronchial
   artery. Readmitted w/ hemoptysis, concerning for lge volume. s/p bronch
   yest per IP w/ stable LLL clot noted. Extubated uneventfully yest.
   1. Hemoptysis- resolved; underlying mediastinal masses concerning for
   poss CLL
   -resp stable
   -follow Hct
   -IP and Onc following re: workup
   2. Delirium- DDx includes meds (benzos), ICU delirium
   -will use antipsychotics, starting standing Seroquel w/ prn Haldol
   -will follow QTc
   -avoid benzos
   3. CLL- neutropenic now
   -followed by Onc
   ICU Care
   Nutrition:
   Comments: po as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-2-3**] 06:29 AM
   PICC Line - [**2120-2-3**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize:
   70 yo man with CLL admitted with recurrent hemoptysis.  Presumed
   sources from erosion of vascular left hilar mass into bronchus. Exam
   significant for crackles at left lung base.  Patient disoriented
   confused.
   A/P
   No further hemoptysis.  Need to discuss with oncology about further
   treatment of masses to prevent this
 chemo versus XRT.
   Awaiting floor bed.
   Likely ICU delirium, will try and control with seroquel.
   Time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2120-2-5**] 11:21 ------